datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([S:10][H:13])([H:11])[H:12]>>[C:0](=[C:1][C:2]([H:6])([H:7])[H:8])([H:3])[H:4].[H:5][C:9]([S:10][H:13])([H:11])[H:12],94.8094
[C:0]([C:1]([C:2]1([H:17])[C:3]([H:18])([H:19])[C:4]([H:20])=[C:5]([H:21])[c:6]2[c:7]([H:22])[c:8]([H:23])[c:9]([H:24])[c:10]([H:25])[c:11]21)([H:15])[H:16])([H:12])([H:13])[H:14].[H:26]>>[C:0]([C:1]([C:2]1([H:17])[C:3]([H:18])([H:19])[C:4]([H:20])([H:26])[C:5]([H:21])[c:6]2[c:7]([H:22])[c:8]([H:23])[c:9]([H:24])[c:10]([H:25])[c:11]21)([H:15])[H:16])([H:12])([H:13])[H:14],14.5058
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:5])[H:6])[H:4].[S:10]([C:11]([c:12]1[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]1[H:24])[H:19])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[H:4].[H:5][C:11]([S:10][H:18])([c:12]1[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]1[H:24])[H:19],38.9112
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[C:7](=[S:8])[H:9]>>[C:0]([C:1](=[S:2])[H:6])([H:4])[H:5].[H:3][C:7](=[S:8])[H:9],41.84
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:20])([H:21])[H:22])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[O:23]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:20])([H:21])[H:22])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9].[H:7][O:23],23.028736
[C:0]([S:1][S:2][S:3][H:7])([H:4])([H:5])[H:6].[H:8]>>[C:0]([S:1][H:8])([H:4])([H:5])[H:6].[S:2][S:3][H:7],4.184
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5](=[C:6]([H:15])[H:16])[H:14])[H:10])[H:9])([H:7])[H:8].[C:17]([C:18]([C:19]([H:24])([H:25])[H:26])[H:23])([H:20])([H:21])[H:22]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([C:5](=[C:6]([H:15])[H:16])[H:14])[C:18]([C:17]([H:20])([H:21])[H:22])([C:19]([H:24])([H:25])[H:26])[H:23])[H:10])[H:9])([H:7])[H:8],13.6398
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:12])[H:11].[C:21]([C:22]([H:25])([H:26])[H:27])([H:23])[H:24]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[C:21]([C:22]([H:25])([H:26])[H:27])([H:23])[H:24])[H:12])[H:11],24.6856
[O:0][O:1][C:2]([C:3]([O:4][O:5][H:10])([H:8])[H:9])([H:6])[H:7]>>[O:0]([O:1][C:2]([C:3]([O:4][O:5][H:10])([H:8])[H:9])[H:7])[H:6],117.152
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9](=[C:10][C:11](=[S:12])[H:15])([H:13])[H:14]>>[C:0](=[C:1][C:2]([H:6])([H:7])[H:8])([H:3])[H:4].[H:5][C:10](=[C:9]([H:13])[H:14])[C:11](=[S:12])[H:15],80.3328
[O:0]([O:1][C:2]([C:3]([C:4]([C:5]([C:6]([O:7][O:8][H:19])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])([H:10])[H:11])[H:9]>>[O:0][H:9].[O:1]1[C:2]([H:10])([H:11])[C:3]1([C:4]([C:5]([C:6]([O:7][O:8][H:19])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12],45.6056
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([C:10]([C:11]([H:18])([H:19])[H:20])([O:12][O:13])[H:17])([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][O:13][O:12][C:10]([C:9]([H:14])([H:15])[H:16])([C:11]([H:18])([H:19])[H:20])[H:17],56.6814848
[C:0]([C:1]([C:2]([c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])[H:14])([H:12])[H:13])([H:9])([H:10])[H:11],108.248448
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([O:4][O:5][H:16])([H:14])[H:15])[C:6]([O:7][O:8][H:19])([H:17])[H:18])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([C:2]([H:11])([H:12])[H:13])([C:6]([O:7][O:8][H:19])([H:17])[H:18])[C:3]([H:14])([H:15])[O:4]1.[O:5][H:16],66.5256
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[H:9]>>[C:0](=[C:1][C:2]([H:6])([H:7])[H:8])([H:3])[H:4].[H:5][H:9],40.9614
[C:0](#[C:1][C:2]#[C:3][C:4]([H:6])([H:7])[H:8])[H:5].[C:9]([C:10]([C:11]([H:16])([H:17])[H:18])[C:12]([H:19])([H:20])[H:21])([H:13])([H:14])[H:15]>>[C:0](#[C:1][C:2]=[C:3]([C:4]([H:6])([H:7])[H:8])[C:10]([C:9]([H:13])([H:14])[H:15])([C:11]([H:16])([H:17])[H:18])[C:12]([H:19])([H:20])[H:21])[H:5],9.37216
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])=[C:3]([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:16])([H:10])([H:11])[H:12].[C:22]([C:23]([C:24]([H:34])([H:35])[H:36])[c:25]1[c:26]([H:37])[c:27]([H:38])[c:28]([H:39])[c:29]([H:40])[c:30]1[H:41])([H:31])([H:32])[H:33]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:16])[C:23]([C:22]([H:31])([H:32])[H:33])([C:24]([H:34])([H:35])[H:36])[c:25]1[c:26]([H:37])[c:27]([H:38])[c:28]([H:39])[c:29]([H:40])[c:30]1[H:41])([H:10])([H:11])[H:12],39.4133
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8](=[C:9]([H:14])[H:15])[H:13])[H:12])([H:10])[H:11]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:7]([C:6]([H:10])[H:11])([C:8](=[C:9]([H:14])[H:15])[H:13])[H:12])[H:3],45.1035
